US06987114B1
1-(3,5-Dimethoxybenzyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione
5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione and 3,5-dimethoxybenzyl bromide were reacted by the same way with the example 1 to obtain the titled compound (212 mg, yield: 50.2%).

reactant | 5-Ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)C=1C(NC(NC1C(C1=CC(=CC(=C1)C)C)=O)=O)=O | C15H16N2O3
reactant | 3,5-dimethoxybenzyl bromide | COC=1C=C(CBr)C=C(C1)OC | C9H11BrO2
product | 1-(3,5-Dimethoxybenzyl)-5-ethyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | 212 mg, yield: 50.2% | COC=1C=C(CN2C(NC(C(=C2C(C2=CC(=CC(=C2)C)C)=O)CC)=O)=O)C=C(C1)OC | C24H26N2O5
